US07354932B2
To a solution of N1-(1-(2-(trimethylsilyl)ethoxymethyl)-1H-Benzimidazol-2-ylmethyl)-N1-(5,6,7,8-tetrahydro-quinolin-8-yl)-butane-1,4-diamine (73 mg, 0.16 mmol) in CH2Cl2 (2 mL) was added trifluoroacetic acid (4 mL) and the resultant solution was stirred at room temperature overnight then concentrated under reduced pressure. The residue was dissolved in CH2Cl2 (10 mL) and water (5 mL) and treated with NaOH (10 M, ˜2 mL) until the aqueous phase was basic (pH 14). The phases were separated and the aqueous phase was extracted with CH2Cl2 (3×10 mL). The combined organic extracts were dried (Na2SO4) and concentrated. Purification of the crude material by radial chromatography on silica gel (1 mm plate, 15:1:1 CH2Cl2—CH3OH—NH4OH) provided 37 mg of N-(1H-Benzimidazol-2-ylmethyl)-N1-(5,6,7,8-tetrahydro-quinolin-8-yl)-butane-1,4-diamine as a white foam.

reactant | N1-(1-(2-(trimethylsilyl)ethoxymethyl)-1H-Benzimidazol-2-ylmethyl)-N1-(5,6,7,8-tetrahydro-quinolin-8-yl)-butane-1,4-diamine | 0.16 mmol, 73 mg | C[Si](CCOCN1C(=NC2=C1C=CC=C2)CN(CCCCN)C2CCCC=1C=CC=NC21)(C)C | C27H41N5OSi
reactant | trifluoroacetic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | N-(1H-Benzimidazol-2-ylmethyl)-N1-(5,6,7,8-tetrahydro-quinolin-8-yl)-butane-1,4-diamine | 37 mg | N1C(=NC2=C1C=CC=C2)CN(CCCCN)C2CCCC=1C=CC=NC21 | C21H27N5
